US04562199
A mixture of ethyl 3-[3-bromo-4-(imidazol-1-ylmethyl)phenyl]prop-2-enoate (0.12 g) in hydrochloric acid (2 ml, 6M) was stirred and heated under reflux for 2 h. The reaction mixture was concentrated under reduced pressure and toluene (5 ml) was added and the reaction mixture was again concentrated to give a white solid. Recrystallisation of the solid from ethanol/ether gave 3-[3-bromo-4-(imidazol-1-ylmethyl)phenyl]prop-2-enoic acid hydrochloride as a white solid, m.p. 247°-249°.

reactant | ethyl 3-[3-bromo-4-(imidazol-1-ylmethyl)phenyl]prop-2-enoate | 0.12 g | BrC=1C=C(C=CC1CN1C=NC=C1)C=CC(=O)OCC | C15H15BrN2O2
reactant | hydrochloric acid | 6M, 2 ml | Cl | ClH
product | 3-[3-bromo-4-(imidazol-1-ylmethyl)phenyl]prop-2-enoic acid hydrochloride | Cl.BrC=1C=C(C=CC1CN1C=NC=C1)C=CC(=O)O | InChI=1S/C13H11BrN2O2.ClH/c14-12-7-10(2-4-13(17)18)1-3-11(12)8-16-6-5-15-9-16;/h1-7,9H,8H2,(H,17,18);1H
